US08809525B2
3-(Methylsulfanyl)-5-phenyl-1,2,4-triazine (2.93 g, 73%) was prepared from methyl hydrazinecarbimidothioate (2.07 g, 19.7 mmol) and phenylglyoxal monohydrate (2.89 g, 19.7 mmol) according to the general procedure of Preparation 2.

reactant | methyl hydrazinecarbimidothioate | 19.7 mmol, 2.07 g | N(N)C(=N)SC | C2H7N3S
reactant | phenylglyoxal monohydrate | 19.7 mmol, 2.89 g | O.C1(=CC=CC=C1)C(=O)C=O
product | 3-(Methylsulfanyl)-5-phenyl-1,2,4-triazine | 2.93 g, 73% | CSC=1N=NC=C(N1)C1=CC=CC=C1 | C10H9N3S
